* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M1 N003 SWITCH N002 N002 Si4427DY
M2 N003 SWITCH N004 N004 Si4427DY
V1 N001 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
R1 N004 0 20
R2 N003 SWITCH 10000
C1 N003 SWITCH 0.1µ
V2 N008 0 PULSE(0 30 200ms 1u 1u 200ms 205ms 1)
D1 N008 N004 D
V3 SWITCH 0 PULSE(0 16 160ms 1u 1u 1 2 1)
R4 N002 N001 10
M3 N007 N009 N006 N006 Si4427DY
R3 N006 N005 100
R5 0 N007 100
V6 N009 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
V4 N005 0 16
M4 N016 N018 N015 N015 Si4427DY
M5 N014 N018 N015 N015 Si4427DY
R7 0 N016 3000
R8 N015 N018 10000
C2 P001 N018 0.1µ
V5 N013 0 17
R9 N018 N020 10
M6 N020 N023 0 0 Si7336ADP
V7 N024 0 PULSE(0 10 160m 1u 1u 20m 40m 2)
R10 N024 N023 220
R11 N024 0 10000
C3 N024 0 10p
M7 LOAD N017 N012 N012 Si4427DY
M8 N011 N017 N012 N012 Si4427DY
R12 N012 N017 10000
C4 N012 N017 0.1µ
V8 N010 0 17
D3 N017 N012 BZX84C8V2L
R13 N017 N019 10
M9 N019 N021 0 0 Si7336ADP
V9 N022 0 PULSE(0 10 160m 1u 1u 20m 40m 2)
R14 N022 N021 220
R15 N022 0 10000
C5 N022 0 10p
M10 LOAD N028 N027 N027 Si4427DY
M11 N026 N028 N027 N027 Si4427DY
R17 N027 N028 10000
C6 N027 N028 0.1µ
V10 N025 0 17
D4 N028 N027 BZX84C8V2L
R18 N028 N029 10
M12 N029 N030 0 0 Si7336ADP
R19 N031 N030 220
R20 N031 0 10000
C7 N031 0 10p
R16 LOAD 0 3000
R6 N026 N025 1
R21 N011 N010 1
R22 N014 N013 1
D2 N020 N018 BZX84C8V2L
R23 N015 P001 1000
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 500ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
.backanno
.end
