* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
M1 N010 SWITCH N009 N009 Si4427DY
M2 N010 SWITCH N011 N011 Si4427DY
V1 N008 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
R1 N011 0 20
R2 N010 SWITCH 10000
C1 N010 SWITCH 0.1µ
V2 N015 0 PULSE(0 30 200ms 1u 1u 200ms 205ms 1)
D1 N015 N011 D
V3 SWITCH 0 PULSE(0 16 160ms 1u 1u 1 2 1)
R4 N009 N008 10
M3 N014 N016 N013 N013 Si4427DY
R3 N013 N012 100
R5 0 N014 100
V6 N016 0 PULSE(0 16 100ms 1u 1u 50ms 60ms 1)
V4 N012 0 16
M4 N020 N024 N019 N019 Si4427DY
M5 N018 N024 N019 N019 Si4427DY
R7 0 N020 3000
V5 N017 0 17
M6 N028 N030 0 0 Si7336ADP
V7 N031 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R10 N031 N030 220
R11 N031 0 10000
C3 N031 0 10p
R22 N018 N017 1
D2 N028 N026 BZX84C8V2L
R8 N024 N026 220
R23 N019 N026 10000
C8 N028 0 10n
R9 N019 N024 10000
C2 N019 N024 10n
M13 LOAD N004 N003 N003 Si4427DY
M14 N002 N004 N003 N003 Si4427DY
R24 N003 N004 10000
C9 N003 N004 0.1µ
V11 N001 0 17
D5 N004 N003 BZX84C8V2L
R25 N004 N005 10
M15 N005 N006 0 0 Si7336ADP
R26 N007 N006 220
R27 N007 0 10000
C10 N007 0 10p
R28 N002 N001 1
M7 LOAD N025 N023 N023 Si4427DY
M8 N022 N025 N023 N023 Si4427DY
R6 0 LOAD 3000
V8 N021 0 17
M9 N029 N032 0 0 Si7336ADP
V9 N033 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N033 N032 220
R13 N033 0 10000
C4 N033 0 10p
R14 N022 N021 1
D3 N029 N027 BZX84C8V2L
R15 N025 N027 220
R16 N023 N027 10000
C5 N029 0 10n
R17 N023 N025 10000
C6 N023 N025 10n
M10 LOAD N037 N036 N036 Si4427DY
M11 N035 N037 N036 N036 Si4427DY
V10 N034 0 17
M12 N039 0 0 0 Si7336ADP
R21 N035 N034 1
D4 N039 N038 BZX84C8V2L
R29 N037 N038 220
R30 N036 N038 10000
C11 N039 0 10n
R31 N036 N037 10000
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 500ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
* THIS NEW GATE DRIVER SETUP WORKS - MAY 5
.backanno
.end
